US08309580B2
(3) methyl 3-[(tert-butoxycarbonyl)(methyl)amino]-2-hydroxypropanoate
To a solution of methyl 2-hydroxy-3-{methyl[(2-nitrophenyl)sulfonyl]amino}propanoate (1.1 g) in N,N-dimethylformamide (10 mL) were added thioglycolic acid (1.0 g) and lithium hydroxide monohydrate (0.9 g), and the mixture was stirred at room temperature overnight. To the reaction mixture was added di-tert-butyl dicarbonate (1.5 g), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column (0% ethyl acetate/hexane to 40% ethyl acetate/hexane) to give the title compound (0.2 g, 20%) as an oil.

reactant | methyl 2-hydroxy-3-{methyl[(2-nitrophenyl)sulfonyl]amino}propanoate | 1.1 g | OC(C(=O)OC)CN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C11H14N2O7S
reactant | thioglycolic acid | 1.0 g | C(CS)(=O)O | C2H4O2S
reactant | lithium hydroxide monohydrate | 0.9 g | O.[OH-].[Li+]
reactant | di-tert-butyl dicarbonate | 1.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 3-[(tert-butoxycarbonyl)(methyl)amino]-2-hydroxypropanoate | 0.2 g, 20% | C(C)(C)(C)OC(=O)N(CC(C(=O)OC)O)C | C10H19NO5
